US07906517B2
2-[Ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzaldehyde (3.7 g), 3,5-bis-trifluoromethyl-benzylamine (4.23 g), acetic acid (1.15 ml) are dissolved in 1,2-dichloroethane (30 ml), and thereto is added triacetoxy sodium borohydride (5.68 g) at room temperature and the mixture is stirred at room temperature overnight. To the reaction solution are added methylene chloride and a saturated aqueous sodium bicarbonate solution, and the mixture is separated, and the organic layer is washed with a saturated brine and the mixture is dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give {2-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-ethyl-(2-methoxy-ethyl)-amine (3.38 g). MS (m/z): 503 [M+H]+.

reactant | 2-[Ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzaldehyde | 3.7 g | C(C)N(C1=C(C=O)C=C(C=C1)C(F)(F)F)CCOC | C13H16F3NO2
reactant | 3,5-bis-trifluoromethyl-benzylamine | 4.23 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | acetic acid | 1.15 ml | C(C)(=O)O | C2H4O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | {2-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-ethyl-(2-methoxy-ethyl)-amine | 3.38 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)N(CCOC)CC)C=C(C1)C(F)(F)F)(F)F | C22H23F9N2O
